US08541576B2
Ethyl 8-(methylsulfanyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [(VIII), R1=Me-S—, R2=H]
Ethyl 8-(methylsulfanyl)-1-trityl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (1.0 g, 1.99 mmol) in DCM (20 ml) was treated with trifluoroacetic acid (5 ml). The resulting mixture was stirred at r.t. for 1 hour and the solvent removed in vacuo. The residue was triturated with diethyl ether filtered and dried to provide the title compound 500 mg (96%). LC/MS (254 nm) HPLC method 2 Rt 3.62 min.

reactant | Ethyl 8-(methylsulfanyl)-1-trityl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.99 mmol, 1.0 g | CSC1=NC=2C3=C(CCC2C=N1)C(=NN3C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C(=O)OCC | C32H28N4O2S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 8-(methylsulfanyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 500 mg, 96% | CSC1=NC=2C3=C(CCC2C=N1)C(=NN3)C(=O)OCC | C13H14N4O2S
